US07915267B2
methyl N-{[3′-(aminomethyl)biphenyl-4-yl]sulfonyl}valinate
A suspension of methyl N-[(3′-cyanobiphenyl-4-yl)sulfonyl]valinate obtained in Reference Example 93 (5.00 g, 13.4 mmol), Raney-nickel (5.00 g) and 28% aqueous ammonia (50 mL) in THF (50 ml)-methanol (50 mL) was stirred at room temperature for 15 hr under hydrogen atmosphere (1 atm). The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. A mixed solvent of ethyl acetate-hexane was added to the residue, and the precipitated insoluble material was filtered off. The filtrate was washed with saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and diethyl ether was added to the residue. The precipitated solid was collected by filtration to give the title compound as a white powder (3.84 g, 76%).

reactant | methyl N-[(3′-cyanobiphenyl-4-yl)sulfonyl]valinate | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C19H20N2O4S
reactant | ammonia | 50 mL | N | H3N
reactant | methanol | 50 mL | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Raney-nickel | 5.00 g | [Ni] | Ni
product | methyl N-{[3′-(aminomethyl)biphenyl-4-yl]sulfonyl}valinate | 3.84 g, 76% | NCC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C19H24N2O4S
